US09193725B2
The 4,6-dichloro-5-(2,2-diethoxyethyl)pyrimidine (1.1 g), phenyl boronic acid (500 mg) and potassium carbonate (556 mg) were dissolved in toluene (15 mL) and water (1.5 mL). The reaction mixture was degassed with nitrogen for 30 minute and then Pd(PPh3)4 (230 mg) was added. The reaction mixture was again degassed with nitrogen for 20 minutes before heated to 100° C. for 3 hours in a sealed tube. The reaction mixture was filtered through a celite pad and washed with ethyl acetate (2×20 mL). The combined filtrate was washed with water (10 mL) and brine (10 mL). The organic layer was dried over anhydrous Na2SO4 and concentrated. The residue was purified by column chromatography using EtOAc/hexane (0.5:9.5) as eluent to afford 4-chloro-5-(2,2-diethoxyethyl)-6-phenylpyrimidine (800 mg) as colorless viscous liquid. 1H NMR (DMSO-d6): δ 1.07-1.10 (t, 6H), 3.21-3.23 (d, 2H), 3.32-3.36 (q, 2H), 3.37-4.00 (q, 2H), 4.79-4.81 (t, 1H), 7.47-7.49 (m, 3H), 7.63-7.66 (m, 2H), 8.91 (s, 1H).

reactant | 4,6-dichloro-5-(2,2-diethoxyethyl)pyrimidine | 1.1 g | ClC1=NC=NC(=C1CC(OCC)OCC)Cl | C10H14Cl2N2O2
reactant | phenyl boronic acid | 500 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 556 mg | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1.5 mL | O | H2O
product | 4-chloro-5-(2,2-diethoxyethyl)-6-phenylpyrimidine | 800 mg | ClC1=NC=NC(=C1CC(OCC)OCC)C1=CC=CC=C1 | C16H19ClN2O2
